US07749992B2
Step 3. Preparation of N-(3,5-Bis-trifluoromethyl-benzyl)-N-(9-methyl-7-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-acetamide
A mixture of N-(3,5-Bis-trifluoromethyl-benzyl)-N-(9-bromo-7-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-acetamide (0.0830 g, 0.144 mmol), methyl boronic acid (0.0260 g, 0.432 mmol) and cesium fluoride (0.0770 mg, 0.504 mmol) in dioxane (2.00 ml) was purged with nitrogen for 10 minutes. To it was added PdCl2(dppf) (0.0170 g) in one portion. The mixture was heated at 80° C. overnight. The solid was removed by filtration, washed with ethyl acetate (30.0 ml) and the filtrate was concentrated in vacuo. Purification by silica gel chromatography (gradient eluent, 0-40% ethyl acetate in hexane) provided the titled compound (0.0460 g, 63%) as white solid. MS (ES+): 513 (M+H).

reactant | N-(3,5-Bis-trifluoromethyl-benzyl)-N-(9-bromo-7-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-acetamide | 0.144 mmol, 0.0830 g | FC(C=1C=C(CN(C(C)=O)C2C3=C(NCCC2)C(=CC(=C3)C(F)(F)F)Br)C=C(C1)C(F)(F)F)(F)F | C22H18BrF9N2O
reactant | methyl boronic acid | 0.432 mmol, 0.0260 g | CB(O)O | CH5BO2
reactant | cesium fluoride | 0.504 mmol, 0.0770 mg | [F-].[Cs+]
solvent | dioxane | 2.00 ml | O1CCOCC1 | C4H8O2
product | N-(3,5-Bis-trifluoromethyl-benzyl)-N-(9-methyl-7-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-acetamide | 0.0460 g, 63% | FC(C=1C=C(CN(C(C)=O)C2C3=C(NCCC2)C(=CC(=C3)C(F)(F)F)C)C=C(C1)C(F)(F)F)(F)F | C23H21F9N2O
